US04440767
(a) Oximinoacetoacetic acid benzyl ester
450 g of Sodium nitrite in 600 ml of water are added dropwise, at 0° over 3 hrs. to a solution of 1000 ml acetoacetic acid benzylester (benzylacetate) in 1000 ml of glacial acetic acid and the mixture stirred for 18 hrs. at room temperature. After the addition of 3000 ml of water the mixture is extracted three times with 1500 ml portions of dichloromethane. The combined extracts are washed twice with 500 ml portions of water. Potassium carbonate is added with thorough stirring until the aqueous phase is neutral. The organic phase is separated, dried with magnesium sulphate and the solvent removed in vacuum. The residue is taken up in 5000 ml of di-isopropyl ether, the insoluble material filtered off and the solution again evaporated to dryness. Trituration with petroleum ether and filtration yields the title product

reactant | Sodium nitrite | 450 g | N(=O)[O-].[Na+]
reactant | acetoacetic acid benzylester (benzylacetate) | 1000 ml | C(C1=CC=CC=C1)CC(=O)O.C(C1=CC=CC=C1)OC(CC(=O)C)=O
solvent | water | 600 ml | O | H2O
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
solvent | water | 3000 ml | O | H2O
product | Oximinoacetoacetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(=O)C=NO)=O | C11H11NO4
